US04399134
In a 25 ml flask were placed 0.43 g of 9-fluoro-8-(4-hydroxy-1-piperidyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 0.2 g of acetic acid and 5 ml of dichloromethane and the mixture was refluxed after adding 5 drops of concentrated sulfuric acid. During the reaction oily substance appeared on the bottom of the flask. After 5 hours the reaction was stopped, dichloromethane was removed and water was added to the product followed by filtration. Crystals thus obtained were washed with methanol to give 150 mg of 9-fluoro-8-(4-acetoxy-1-piperidyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid. m.p. 250°-253° C., pale yellow rhombic crystals.

reactant | 9-fluoro-8-(4-hydroxy-1-piperidyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 0.43 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)N1CCC(CC1)O | C19H21FN2O4
reactant | acetic acid | 0.2 g | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 9-fluoro-8-(4-acetoxy-1-piperidyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 150 mg | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)N1CCC(CC1)OC(C)=O | C21H23FN2O5
